US07595319B2
3-Amino-N-(2-methoxyphenyl)-6-{4-[(4-methylpiperazin-1-yl)sulfonyl]phenyl}pyrazine-2-carboxamide Hydrochloride
2-Methoxyaniline (80 mg, 318 mmol) was added to a mixture of 3-amino-6-[4-[(4-methyl-1-piperazinyl)sulfonyl]phenyl]-2-pyrazinecarboxylic acid (80 mg, 212 mmol), O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (82 mg, 255 mmol), 1-hydroxybenzotriazole hydrate (34 mg, 255 mmol) and N-ethyl-N,N-diisopropylamine (0.111 mL, 0.637 mmol) in N,N-dimethylformamide (2 mL). The reaction mixture was stirred for 13 h. The reaction was quenched with water (1 mL) and the solvent was evaporated. Purification by preparative HPLC (column: XTerra C8 19×300 mm, eluent: a acetonitrile/water, (20:80 to 80:20), gradient) followed by evaporation of the solvent gave a yellowish solid that was dissolved in methylene chloride (10 mL). HCl in diethyl ether (1 M, 2.5 mL) was added while stirring. Filtration and drying gave 12 mg (12% yield) of the title compound: MS (ESI) 483 m/z (M++1).

reactant | 2-Methoxyaniline | 318 mmol, 80 mg | COC1=C(N)C=CC=C1 | C7H9NO
reactant | 3-amino-6-[4-[(4-methyl-1-piperazinyl)sulfonyl]phenyl]-2-pyrazinecarboxylic acid | 212 mmol, 80 mg | NC=1C(=NC(=CN1)C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C)C(=O)O | C16H19N5O4S
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 255 mmol, 82 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 1-hydroxybenzotriazole hydrate | 255 mmol, 34 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-ethyl-N,N-diisopropylamine | 0.637 mmol, 0.111 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | HCl | Cl | ClH
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 1 M, 2.5 mL | C(C)OCC | C4H10O
product | 3-Amino-N-(2-methoxyphenyl)-6-{4-[(4-methylpiperazin-1-yl)sulfonyl]phenyl}pyrazine-2-carboxamide Hydrochloride | 12 mg, 12% yield | Cl.NC=1C(=NC(=CN1)C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C)C(=O)NC1=C(C=CC=C1)OC | InChI=1S/C23H26N6O4S.ClH/c1-28-11-13-29(14-12-28)34(31,32)17-9-7-16(8-10-17)19-15-25-22(24)21(26-19)23(30)27-18-5-3-4-6-20(18)33-2;/h3-10,15H,11-14H2,1-2H3,(H2,24,25)(H,27,30);1H
